US04888439
N-(19-ethoxycarbonyl-2,6,10,14,18-pentamethyl-2,6,10,14,18-nonadecapentaenoyl)dimethylamine
Starting materials: 19-ethoxycarbonyl-2,6,10,14,18-pentamethyl-2,6,10,14,18-nonadecapentaenoic acid and dimethylamine (50% aqueous dimethylamine solution)

reactant | 19-ethoxycarbonyl-2,6,10,14,18-pentamethyl-2,6,10,14,18-nonadecapentaenoic acid | C(C)OC(=O)C=C(CCC=C(CCC=C(CCC=C(CCC=C(C(=O)O)C)C)C)C)C | C27H42O4
reactant | dimethylamine | CNC | C2H7N
product | N-(19-ethoxycarbonyl-2,6,10,14,18-pentamethyl-2,6,10,14,18-nonadecapentaenoyl)dimethylamine | C(C)OC(=O)C=C(CCC=C(CCC=C(CCC=C(CCC=C(C(=O)N(C)C)C)C)C)C)C | C29H47NO3
